US04851418
[1-Methyl-2-oxo-2-[(1-(phenylmethyl)-3-pyrrolidinyl)amino]ethyl]carbamic acid 1,1-dimethylethyl ester (Mixture of isomers)
To a solution of 9.46 g (50 mmol) of t-butoxycarbonylamino-L-alanine (Sigma) in 100 ml of acetonitrile was added 8.1 g (50 mmol) of 1,1'-carbonyldiimidazole. After gas evolution ceased, the reaction mixture was heated at 60° for one hour and allowed to stand at room temperature for 18 hours. The reaction was cooled to 0° and treated with 8.8 g (150 mmole) of 1-benzyl-3-pyrrolidinamine (J. Med. Chem., 24, 1229 (1981)). The reaction was stirred at room temperature for three hours and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate, washed with water, dried (MgSO4) and evaporated in vacuo to give 16.1 g of the title compound with crystallized on standing and had, mp 83°-85°.

reactant | t-butoxycarbonylamino-L-alanine | 50 mmol, 9.46 g | C(C)(C)(C)OC(=O)NN[C@@H](C)C(=O)O | C8H16N2O4
reactant | 1,1'-carbonyldiimidazole | 50 mmol, 8.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-benzyl-3-pyrrolidinamine | 150 mmole, 8.8 g | C(C1=CC=CC=C1)N1CC(CC1)N | C11H16N2
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | [1-Methyl-2-oxo-2-[(1-(phenylmethyl)-3-pyrrolidinyl)amino]ethyl]carbamic acid 1,1-dimethylethyl ester | 16.1 g | CC(C)(C)OC(NC(C(NC1CN(CC1)CC1=CC=CC=C1)=O)C)=O | C19H29N3O3
